US05756821
3,3,6-Trimethyl-hept-5-en-2-ol propionate
From 46.8 g of 3,3,6-trimethyl-hept-5-en-2-ol, 70 ml of propionic anhydride and 0.1 ml of phosphoric acid analogously to Example 7.

reactant | 3,3,6-trimethyl-hept-5-en-2-ol | 46.8 g | CC(C(C)O)(CC=C(C)C)C | C10H20O
reactant | phosphoric acid | 0.1 ml | P(O)(O)(O)=O | H3O4P
solvent | propionic anhydride | 70 ml | C(CC)(=O)OC(CC)=O | C6H10O3
product | 3,3,6-Trimethyl-hept-5-en-2-ol propionate | C(CC)(=O)OC(C)C(CC=C(C)C)(C)C | C13H24O2
